US06057369
(E)-2-Methyl-7-phenyl-hept-2-enoic acid (2.2 g, 10 mmol), 4-methoxybenzenethiol (2.8 g, 20 mmol) and piperidine (0.1 mL, 1 mmol) are combined and heated at 85° C. for 12 hours. The reaction is cooled and purified by gradient elution chromatography (silica, 35 to 100% ether in petroleum ether) to yield (±)-3-(4-Methoxyphenylsulfanyl)-2-methyl-7-phenylheptanoic acid (0.9 g, 25%) as a 50/50 mixture of diastereomers: 1H NMR (300 MHz, CDCl3) δ 7.39-7.34 (m, 2H), 7.29-7.25 (m, 2H), 7.20-7.11 (m, 3H), 6.81 (m, 2H), 3.79 (s, 1.5H), 3.78 (s, 1.5H), 3.30-3.16 (m, 1H), 2.70-2.54 (m, 3H), 1.72-1.40 (m, 6H), 1.28 (d, J=7.0 Hz, 1.5H), 1.22 (d, J=7.0 Hz, 1.5H); MS (FAB) m/e 359 (M+H)+.

reactant | (E)-2-Methyl-7-phenyl-hept-2-enoic acid | 10 mmol, 2.2 g | C/C(/C(=O)O)=C\CCCCC1=CC=CC=C1 | C14H18O2
reactant | 4-methoxybenzenethiol | 20 mmol, 2.8 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | piperidine | 1 mmol, 0.1 mL | N1CCCCC1 | C5H11N
product | (±)-3-(4-Methoxyphenylsulfanyl)-2-methyl-7-phenylheptanoic acid | 0.9 g, 25% | COC1=CC=C(C=C1)SC(C(C(=O)O)C)CCCCC1=CC=CC=C1 | C21H26O3S
